### PR TITLE
feat(ErdosProblems): 375

### LINKED ISSUE #699: Erdős Problem 375
### What is the conjecture
    
https://www.erdosproblems.com/375

  Is it true that for any $n,k\geq 1$, if $n+1,\ldots,n+k$ are all composite then there are distinct primes $p_1,\ldots,p_k$ such that $p_i\mid n+i$ for $1\leq i\leq k$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #699

I only include the strongest result.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/375.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+/-- Is it true that for any `n ≥ 1` and any `k`, if `n + 1, ..., n + k` are all composite, then
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`? -/
+@[category research open, AMS 11]
+theorem erdos_375 : answer(sorry) ↔ ∀ n ≥ 1, ∀ k, (∀ i < k, ¬ (n + i + 1).Prime) →
+    ∃ p : Fin k → ℕ, p.Injective ∧ ∀ i, (p i).Prime ∧ p i ∣ (n + i + 1) := by
+  sorry
+
+/-- If `erdos_375` is true, then `(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)`
+for some `c > 0`. In particular, this resolves Legendre's conjecture.
+#TODO : Formalize Legendre's conjecture. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/375.lean]: It's already in the repo!

File: FormalConjectures/ErdosProblems/375.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+
+open Set Filter Topology Asymptotics
+
+namespace Erdos375
+
+/-- Is it true that for any `n ≥ 1` and any `k`, if `n + 1, ..., n + k` are all composite, then
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`? -/
+@[category research open, AMS 11]
+theorem erdos_375 : answer(sorry) ↔ ∀ n ≥ 1, ∀ k, (∀ i < k, ¬ (n + i + 1).Prime) →
+    ∃ p : Fin k → ℕ, p.Injective ∧ ∀ i, (p i).Prime ∧ p i ∣ (n + i + 1) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/375.lean]:
```suggestion
    ∃ p : Fin k → ℕ, p.Injective ∧ ∀ i, (p i).Prime ∧ p i ∣ n + i + 1 := by
```
Same below

File: FormalConjectures/ErdosProblems/375.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- For any `n ≥ 1` and `k `, if `n + 1, ..., n + k` are all composite, then
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`. -/
+@[category research solved, AMS 11]
+theorem erdos_375.le_two : ∀ n ≥ 1, ∀ k ≤ 2, (∀ i < k, ¬ (n + i + 1).Prime) →
+    ∃ p : Fin k → ℕ, p.Injective ∧ ∀ i, (p i).Prime ∧ p i ∣ (n + i + 1) := by
+  sorry
+
+/-- There exists a constant `c > 0` such that for all `n` large enough, if
+`k < c * (Real.log n / (Real.log (Real.log n))) ^ 3 → (∀ i < k, ¬ (n + i + 1).Prime)`, then
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/375.lean]:
```suggestion
`k < c * (log n / log (log n)) ^ 3 → (∀ i < k, ¬ (n + i + 1).Prime)`, then
```
hopefully you can do the same in the Lean code

File: FormalConjectures/ErdosProblems/375.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`. This is proved
+in [RST75]. -/
+@[category research solved, AMS 11]
+theorem erdos_375.log : ∃ c > 0, ∀ᶠ n : ℕ in atTop, ∀ k : ℕ,
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/375.lean]:
```suggestion
theorem erdos_375.log : ∃ c > 0, ∀ n k : ℕ,
```
no? You can always take `c` small enough that `k` is zero until some large `n`

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 5]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
...
+      ↔ answer(sorry) := by
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+ `(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)` for all `n`, then
+Legendre's conjecture is true. -/
+@[category research solved, AMS 11]
+theorem bounded_gap_legendre :
+    ∃ c > 0, ∀ n, (n + 1).nth Prime - n.nth Prime < (n.nth Prime : ℝ) ^ (1 / (2 : ℝ) - c)
+    → (∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p) := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
    → ∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 6]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
...
+    (∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p)
+      ↔ answer(sorry) := by
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+ `(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)` for all `n`, then
+Legendre's conjecture is true. -/
+@[category research solved, AMS 11]
+theorem bounded_gap_legendre :
+    ∃ c > 0, ∀ n, (n + 1).nth Prime - n.nth Prime < (n.nth Prime : ℝ) ^ (1 / (2 : ℝ) - c)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
    (∃ c > 0, ∀ n, (n + 1).nth Prime - n.nth Prime < (n.nth Prime : ℝ) ^ (1 / (2 : ℝ) - c))
```

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 7]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
 -/
 @[category research open, AMS 11]
 theorem legendre_conjecture :
-    answer(sorry) ↔ ∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n^2) ((n+1)^2), Prime p := by
+    (∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p)
+      ↔ answer(sorry) := by
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+ `(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)` for all `n`, then
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
`(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)` for all `n`, then
```

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 8]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
 -/
 @[category research open, AMS 11]
 theorem legendre_conjecture :
-    answer(sorry) ↔ ∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n^2) ((n+1)^2), Prime p := by
+    (∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p)
+      ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]: We've swittched to having `answer(sorry)` first

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 9]
```diff
@@ -34,8 +34,7 @@ Does there always exist at least one prime between consecutive perfect squares?
 -/
 @[category research open, AMS 11]
 theorem legendre_conjecture :
-    (∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p)
-      ↔ answer(sorry) := by
+    answer(sorry) ↔ (∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p) := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
    answer(sorry) ↔ ∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```

File: FormalConjectures/Wikipedia/LegendreConjecture.lean (hunk 6 above)
Comment (CoolRmal) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: This parenthesis cannot be deleted as otherwise Lean interpret it as 
`∃ c > 0, 
(∀ n, (n + 1).nth Prime - n.nth Prime < (n.nth Prime : ℝ) ^ (1 / (2 : ℝ) - c) → ∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p)`

**Comment by CoolRmal** [comment]
I think I addressed all your comments. I'll work on the proof of `bounded_gap_legendre`.

File: FormalConjectures/Wikipedia/LegendreConjecture.lean (hunk 6 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: I was suggesting *adding* it, which you seem to have done already 😉

**Comment by YaelDillies** [comment]
Do you want to prove it in this PR or the next one?

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 10]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
...
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+`(n + 1).nth Nat.Prime - n.nth Nat.Prime < (n.nth Nat.Prime) ^ (1 / 2 - c)` for all `n`, then
+Legendre's conjecture is true. -/
+@[category research solved, AMS 11]
+theorem bounded_gap_legendre :
+    (∃ c > 0, ∀ᶠ n in atTop, (n + 1).nth Nat.Prime - n.nth Nat.Prime <
+    (n.nth Nat.Prime : ℝ) ^ (1 / (2 : ℝ) - c))
+    → ∀ᶠ n in atTop, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```
Comment (CoolRmal) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]: After some thoughts, I think they only want the statement to be true eventually, because otherwise we are assuming the following two (and potentially more) absurd inequalities:

- $2 = 5 - 3 < 3 ^ {1 / 2 - c}$
- $4 = 11 - 7 < 7 ^ {1/2 - c }$

I also used [Nat.Prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.Prime) instead of [Prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Prime/Defs.html#Prime).

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: But then the Ferreira statement below is the same but unconditional, right? @mo271, what do you suggest here?

File: FormalConjectures/ErdosProblems/375.lean [hunk 11]
```diff
@@ -0,0 +1,89 @@
...
+-/
+
+open Set Filter Topology Asymptotics
+
+namespace Erdos375
+
+/-- Is it true that for any `n ≥ 1` and any `k`, if `n + 1, ..., n + k` are all composite, then
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`? -/
+@[category research open, AMS 11]
+theorem erdos_375 : answer(sorry) ↔ ∀ n ≥ 1, ∀ k, (∀ i < k, ¬ (n + i + 1).Prime) →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/375.lean]: Given that you're using `erdos_375` as as assumption later on, I would suggest the following: 
1) Define a predicate `Erdos375` (as a `def`)
2) State `erdos_375` as  `answer(sorry) ↔ erdos_375` 
3) State the other implications using `Erdos375`.

This will help with maintainability (e.g. only need to fix the statement of `erdos_375` once if it breaks) and readability of the downstream implications!

File: FormalConjectures/ErdosProblems/375.lean [hunk 12]
```diff
@@ -0,0 +1,89 @@
...
+  · choose! p hp using (n + 1).exists_prime_and_dvd (by linarith)
+    exact ⟨fun x => p, fun x => by grind, fun i => by simpa using hp⟩
+  · choose! p hp using (fun i : Fin 2 => (n + i + 1).exists_prime_and_dvd (by linarith))
+    refine ⟨p, fun x y hxy => ?_, hp⟩
+    by_contra! hr
+    wlog hq : x < y
+    · exact this n hn k hk h p hp y x hxy.symm hr.symm (by grind)
+    · have hy : y = x + 1 := by grind
+      have := hy ▸ Nat.dvd_sub (hp y).2 (hxy ▸ (hp x).2)
+      have := (hp 1).1
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/375.lean:78]: (very nitpicky) you can get rid of this line
```suggestion
```

File: FormalConjectures/ErdosProblems/375.lean [hunk 13]
```diff
@@ -0,0 +1,89 @@
...
+      simp_all [Nat.not_prime_one]
+
+/-- There exists a constant `c > 0` such that for all `n` large enough, if
+`k < c * (log n / (log (log n))) ^ 3 → (∀ i < k, ¬ (n + i + 1).Prime)`, then
+there are distinct primes `p₁, ... pₖ` such that `pᵢ ∣ n + i` for all `1 ≤ i ≤ k`. This is proved
+in [RST75]. -/
+@[category research solved, AMS 11]
+theorem erdos_375.log : ∃ c > 0, ∀ n k : ℕ,
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/375.lean:88]: I think the "n sufficiently large" condition is missing otherwise?
```suggestion
theorem erdos_375.log : ∃ c > 0, ∀ᶠ (n : ℕ) in Filter.atTop, ∀ k : ℕ,
```

File: FormalConjectures/Wikipedia/LegendreConjecture.lean (hunk 10 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: I agree with @YaelDillies on this one: I think the goal of the theorem should quantify over all `n` (but this is fine: to avoid the absurd inequalities you mention we only need to take sufficiently large `n` in the hypothesis of the theorem)

Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
/-- If there exists a constant `c > 0` such that
`(n + 1).nth Nat.Prime - n.nth Nat.Prime < (n.nth Nat.Prime) ^ (1 / 2 - c)` for sufficiently large `n`, then
Legendre's conjecture is true. -/
@[category research solved, AMS 11]
theorem bounded_gap_legendre
    (H : ∃ c > 0, ∀ᶠ n in atTop, (n + 1).nth Nat.Prime - n.nth Nat.Prime <
    (n.nth Nat.Prime : ℝ) ^ (1 / (2 : ℝ) - c)) :
    ∀ᶠ n in atTop, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Prime p := by
```

Comment (CoolRmal) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: @Paul-Lez Should I keep this theorem then? I think Yaël is suggesting that this theorem is not needed because it is not better than Ferreira's statement.

File: FormalConjectures/ErdosProblems/375.lean (hunk 13 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/375.lean:88]: Yael suggested me this. The reason is that one can always take `c` small enough so that `k < c * (log n / (log (log n)))` implies that `k : ℕ` is zero until `n` is large. 

Screenshot 2026-01-16 at 7 10 03 PM

File: FormalConjectures/ErdosProblems/375.lean (hunk 12 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/375.lean:78]: The goal is not solved if I delete this line.

File: FormalConjectures/Wikipedia/LegendreConjecture.lean (hunk 10 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: I think I have convinced myself that this statement is worth having on the basis that what we're interested in in this repo isn't results but proofs. An AI proving the implication you are adding would be interesting, even if the statement can theoretically be made stronger

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 14]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
 -/
 @[category research open, AMS 11]
 theorem legendre_conjecture :
-    answer(sorry) ↔ ∀ᵉ (n ≥ 1), ∃ p ∈ Set.Ioo (n^2) ((n+1)^2), Prime p := by
+    answer(sorry) ↔ ∀ n ≥ 1, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Nat.Prime p := by
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+`(n + 1).nth Nat.Prime - n.nth Nat.Prime < (n.nth Nat.Prime) ^ (1 / 2 - c)` for all `n`, then
+Legendre's conjecture is true. -/
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]:
```suggestion
`(n + 1).nth Nat.Prime - n.nth Nat.Prime < (n.nth Nat.Prime) ^ (1 / 2 - c)` for all large `n`,
then Legendre's conjecture is asymptotically true. -/
```

File: FormalConjectures/ErdosProblems/375.lean (hunk 13 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/375.lean:88]: Ah I see - I'd suggest adding a small comment next to the formalisation in order to document this!

File: FormalConjectures/Wikipedia/LegendreConjecture.lean [hunk 15]
```diff
@@ -34,15 +34,25 @@ Does there always exist at least one prime between consecutive perfect squares?
...
+  sorry
+
+/-- If there exists a constant `c > 0` such that
+`(n + 1).nth Nat.Prime - n.nth Nat.Prime < (n.nth Nat.Prime) ^ (1 / 2 - c)` for all large `n`,
+then Legendre's conjecture is asymptotically true. -/
+@[category research solved, AMS 11]
+theorem bounded_gap_legendre :
+    (∃ c > 0, ∀ᶠ n in atTop, (n + 1).nth Nat.Prime - n.nth Nat.Prime <
+    (n.nth Nat.Prime : ℝ) ^ (1 / (2 : ℝ) - c))
+    → ∀ᶠ n in atTop, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Nat.Prime p := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/LegendreConjecture.lean]: Small nit (to stick to Mathlib conventions)
```suggestion
theorem bounded_gap_legendre :
    (H : ∃ c > 0, ∀ᶠ n in atTop, (n + 1).nth Nat.Prime - n.nth Nat.Prime <
      (n.nth Nat.Prime : ℝ) ^ (1 / (2 : ℝ) - c)) :
    ∀ᶠ n in atTop, ∃ p ∈ Set.Ioo (n ^ 2) ((n + 1) ^ 2), Nat.Prime p := by
```

File: FormalConjectures/ErdosProblems/375.lean [hunk 16]
```diff
@@ -0,0 +1,91 @@
...
+
+/-- If `Erdos375` is true, then `(n + 1).nth Prime - n.nth Prime < (n.nth Prime) ^ (1 / 2 - c)`
+for some `c > 0`. -/
+@[category research solved, AMS 11]
+theorem erdos_375.bounded_gap : Erdos375 →
+    ∃ c > 0, ∀ᶠ n in atTop, (n + 1).nth Nat.Prime - n.nth Nat.Prime
+    < (n.nth Nat.Prime : ℝ) ^ (1 / (2 : ℝ) - c) := by
+  sorry
+
+/-- In particular, if `Erdos375` is true, then it resolves Legendre's conjecture.-/
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/375.lean]: I think this is more precise?
```suggestion
/-- In particular, if `Erdos375` is true, then Legendre's conjecture is asymptotically true.-/
```

File: FormalConjectures/ErdosProblems/375.lean (hunk 12 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/375.lean:78]: Oh interesting! Deleting the line works if you try it in the web editor, so this might be a Lean version thing. In that case let's just ignore this:)

File: FormalConjectures/Wikipedia/LegendreConjecture.lean (hunk 10 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/LegendreConjecture.lean]: Ah I think part of the confusion was that there was (until recently) a mismatch between the formal statement (which states the asymptotic Legendre conjecture, conditional on that hypothesis) and the docstring which was stating the _general_ version of Legendre (which would have been better than Ferreira's statement). 
We now seem to have decided to go for the asymptotic version, but I agree with @YaelDillies that this is worth keeping.
